US06756382B2
Using the general method of Example 197, 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.5 mmol) was reacted with cyclohexanecarbonyl chloride (0.52 mL, 3.9 mmol) to provide 1.16 g of N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclohexanecarboxamide as a light brown solid, m.p. 201.7-202.5° C.

reactant | 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.5 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5
reactant | cyclohexanecarbonyl chloride | 3.9 mmol, 0.52 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclohexanecarboxamide | 1.16 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2CCCCC2)CC | C23H31N5O
